US04835180
(a) 6-Bromo-N-(2-hydroxyphenyl)hexanamide [IV; R1 =R2 =R3 =H, X=Br, N=6]
was prepared in 73% yield from 34.7 g (0.23 mol) of 2-aminophenol and 32 g (0.15 mol) of 6-bromohexanoyl chloride according to the procedure of Example 1, part a, except that the addition was made at room temperature and the crude product was dissolved in ethyl acetate and washed with 1N HCl. The 6-bromo-N-(2-hydroxyphenyl)hexanamide was recrystallized from ethyl acetate-hexane, mp 88°-90° C.

reactant | 2-aminophenol | 0.23 mol, 34.7 g | NC1=C(C=CC=C1)O | C6H7NO
reactant | 6-bromohexanoyl chloride | 0.15 mol, 32 g | BrCCCCCC(=O)Cl | C6H10BrClO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-Bromo-N-(2-hydroxyphenyl)hexanamide | 73% yield | BrCCCCCC(=O)NC1=C(C=CC=C1)O | C12H16BrNO2
